US07825253B2
N-(2-{[(5-methyl-2-furyl)methyl]amino}quinolin-5-yl)-N′-phenylsulfamide
The title compound, MS: m/e=409.1 (M+H+), was prepared in accordance with the general method of example 58 from 5-nitro-2-chloroquinoline, 5-methyl-2-furanmethanamine and phenylsulfamoyl chloride.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 5-methyl-2-furanmethanamine | CC1=CC=C(O1)CN | C6H9NO
reactant | phenylsulfamoyl chloride | C1(=CC=CC=C1)NS(=O)(=O)Cl | C6H6ClNO2S
product | N-(2-{[(5-methyl-2-furyl)methyl]amino}quinolin-5-yl)-N′-phenylsulfamide | CC1=CC=C(O1)CNC1=NC2=CC=CC(=C2C=C1)NS(=O)(=O)NC1=CC=CC=C1 | C21H20N4O3S
